US07514451B2
(3R,4R)-(1-tert-Butoxycarbonyl-4-hydroxypyrrolidin-3-yl)methanol (3.64 g) and triphenylphosphine (4.41 g) were dissolved in N,N-dimethylacetamide (84 mL). While the solution was chilled in an ice water bath, carbon tetrabromide (5.57 g) in dichloromethane (16 mL) was added dropwise. The mixture was stirred at room temperature for 13 hours, followed by addition of methanol (8 mL) and concentration under reduced pressure. The resulting residue was dissolved in ethyl acetate (300 mL), washed sequentially with water (100 mL) and saturated brine (100 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluant: ethyl acetate: hexane=2:1) to give (3S,4R)-3-bromomethyl-1-tert-butoxycarbonyl-4-hydroxypyrrolidine as a milky white syrup (3.17 g).

reactant | (3R,4R)-(1-tert-Butoxycarbonyl-4-hydroxypyrrolidin-3-yl)methanol | 3.64 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)O)CO | C10H19NO4
reactant | triphenylphosphine | 4.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 5.57 g | C(Br)(Br)(Br)Br | CBr4
reactant | methanol | 8 mL | CO | CH4O
solvent | N,N-dimethylacetamide | 84 mL | CN(C(C)=O)C | C4H9NO
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (3S,4R)-3-bromomethyl-1-tert-butoxycarbonyl-4-hydroxypyrrolidine | 3.17 g | BrC[C@H]1CN(C[C@@H]1O)C(=O)OC(C)(C)C | C10H18BrNO3
